US05516774
10-[4-[(Diphenylphosphinyl)amino]benzoyl]-10,11-dihydro-5H-pyrrolo-[2,1-c][1,4]benzodiazepine
A mixture of 0.10 g of 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine 0.060 g of triethylamine and 0.12 g of diphenylphosphinyl chloride in 2 ml of dichloromethane is stirred at room temperature for 2 hours and then 1N NaOH is added. The mixture is extracted with ethyl acetate and the extract washed with brine and dried (Na2SO4). The solvent is removed and the residue triturated with ether-hexane to give 0.16 g of a white solid.

reactant | 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 0.10 g | NC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1 | C19H17N3O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphinyl chloride | 0.12 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | NaOH | 1N | [OH-].[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 10-[4-[(Diphenylphosphinyl)amino]benzoyl]-10,11-dihydro-5H-pyrrolo-[2,1-c][1,4]benzodiazepine | 0.16 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)NC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1 | C31H26N3O2P
